OpAmpDiffHSC
*SPICE Netlist generated by Advanced Sim server on 6/01/2009 11:35:16 AM

*Schematic Netlist:
CL OUT2 OUT1 100pF
RF1 INV OUTPUT1 500
RF2 RG OUTPUT2 50
RG1 NetRG1_1 INV 250
RG2 NetRG2_1 RG 250
RL OUT2 OUT1 1k
RM 0 NetRG2_1 5
RO1 OUTPUT1 OUT1 50
RO2 OUTPUT2 OUT2 50
RS INPUT NetRG1_1 10
RT 0 NetRG1_1 10
XU1A VCC VEE RG INV OUTPUT2 OUTPUT1 0 VCLAMP LMH6553
V1 VCC 0 12V
V2 VEE 0 -12V
Vin INPUT 0 DC 0 SIN(0 0.1 10k 0 0) AC 1 0

.SAVE 0 INPUT INV NetRG1_1 NetRG2_1 OUT1 OUT2 OUTPUT1 OUTPUT2 RG VCC VCLAMP VEE
.SAVE V1#branch V2#branch Vin#branch @V1[z] @V2[z] @Vin[z] @CL[i] @RF1[i] @RF2[i]
.SAVE @RG1[i] @RG2[i] @RL[i] @RM[i] @RO1[i] @RO2[i] @RS[i] @RT[i] @CL[p] @RF1[p]
.SAVE @RF2[p] @RG1[p] @RG2[p] @RL[p] @RM[p] @RO1[p] @RO2[p] @RS[p] @RT[p] @V1[p]
.SAVE @V2[p] @Vin[p]

*PLOT AC -1 1 A=INPUT A=OUTPUT

*Selected Circuit Analyses:
.AC DEC 100 1 1E8

*Models and Subcircuits:
.subckt LMH6553 vcc vee vip vim vop vom vcm vclmp
l1 vim a0198 1e-9
l0 vip a0118 1e-9
l3 vom a0117 1e-9
l2 vop a0113 1e-9
r41 a02155 0 200
vr41 a0215 a02155 0
e0 a0118 a0100 a0215 0 1
r27 a2220 0 5e-3
vr27 a2220 a220 0
g3 a202 vee a220 0 1
r28 a2167 0 5e-3
vr28 a2167 a167 0
g4 a176 vee a167 0 1
g1 vcc a108 vcc vee 140e-6
g0 a111 a134 a108 vee 10.0e-3
d3 a119 a0198 DIODEnoisy
d4 a199 a0100 DIODEnoisy
d6 a113 a140 DIODEideal
d5 a115 a146 DIODEideal
d1 a0198 a176 DIODEnoisy
d0 a0100 a202 DIODEnoisy
c4 a0100 a0198 6e-12
c0 a203 0 2.1e-12
c1 a205 0 2.1e-12
q12 a174 a134 a224 0 NPNXTR
q2 a134 a134 a248 0 NPNXTR
q0 a202 a134 a250 0 NPNXTR
q9 a140 vcm a149 0 NPNXTR
q1 a176 a134 a252 0 NPNXTR
q10 a146 a148 a174 0 NPNXTR
q11 a149 a134 a222 0 NPNXTR
q3 a119 a111 a154 0 PNPXTR
q5 a111 a111 a157 0 PNPXTR
q4 a199 a111 a160 0 PNPXTR
v2 a241 a174 0
v1 a202 a176 0
i9 a0100 a0198 2.5e-6
i5 vcc a148 12e-6
i0 vcc a108 7e-3
f2 0 a203 v2 1.0
f3 0 a205 v2 1.0
f1 0 a205 v1 -2.0
f0 0 a203 v1 2.0
rtm 0 a205 128e3
r29 a222 vee 250
r30 a224 vee 250
r31 vcc a113 250
rtp a203 0 128e3
r32 vcc a115 250
r20 vcc a157 250
r15 a0113 a148 2.5e3
r22 vcc a160 175
r16 a148 a0117 2.5e3
r33 a149 a241 200
rtc a108 vee 14.3 tc=400e-6,-5e-6
r21 vcc a154 175
r19 a248 vee 250
r17 a250 vee 175
r18 a252 vee 175
* hiz_limiter
e500 a5037 0 a5049 0 1.0
e501 a5041 0 a5062 0 1.0
e503 a5045 0 vclmp 0 1.0
v500 a5069 vcm 1.0
i503 vcc vclmp 100e-6
i507 vcc a5062 100e-6
i506 a5068 vee 100e-6
i504 a5049 vee 100e-6
d502 a205 a5037 DIODEideal
d505 a5041 a203 DIODEideal
d506 a203 a5037 DIODEideal
d500 vclmp a5049 DIODEideal
d503 a5041 a205 DIODEideal
d504 a5062 a5068 DIODEideal
r501 a5045 a5066 1000
r503 a5066 a5068 1000
r504 a5069 vclmp 100e3
* Ideal OpAmp
c400 a4060 0 3.2e-12
e400 a4029 0 a4060 0 1.0
g400 a4060 0 vcm a5066 -20e-3
r404 a4060 0 100e3
r406 a4029 a5068 10
** N Buffer Stage
c201 vee a2005 250e-15
c200 vcc a2017 250e-15
q205 a2017 a111 a2040 0 PNPXTR
q202 vee a205 a2017 0 PNPXTR
q200 vee a2005 a2038 0 PNPXTR
q207 a2005 a134 a2029 0 NPNXTR
q203 vcc a205 a2005 0 NPNXTR
q201 vcc a2017 a2060 0 NPNXTR
r205 a0117 a2038 2
r204 a2060 a0117 2
r202 a2029 vee 160
r200 vcc a2040 225
* P Buffer Stage
c301 vee a3005 250e-15
c300 vcc a3017 250e-15
q305 a3017 a111 a3040 0 PNPXTR
q302 vee a203 a3017 0 PNPXTR
q300 vee a3005 a3038 0 PNPXTR
q307 a3005 a134 a3029 0 NPNXTR
q303 vcc a203 a3005 0 NPNXTR
q301 vcc a3017 a3060 0 NPNXTR
r305 a0113 a3038 2
r304 a3060 a0113 2
r302 a3029 vee 160
r300 vcc a3040 225
*//////////////////////////////
** Device Model Parameters
*//////////////////////////////
**
**
.model DIODEideal d(tnom=25.0 is=1e-18)
.model DIODEnoisy d(tnom=25.0 is=1e-18 af=2.0 kf=80e-12)
.model NPNXTR npn(tnom=25.0             is=14.42e-18            bf=121 vaf=200.0
+ rb=57.00                re=3.000 rc=7.000              cje=206.3e-15
+ cjc=81.45e-15 kf=480.0e-12          af=2.000)
.model PNPXTR pnp(tnom=25.0             is=18.92e-18            bf=79 vaf=60.00
+ rb=35.80                re=1.600 rc=3.500              cje=167.4e-15
+ cjc=126.8e-15 kf=350.0e-12          af=2.000)
.ENDS LMH6553

.END
